US08008298B2
1-[2-(2-Fluoro-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-fluorobenzeneboronic acid following general procedures as described in these Examples. Silica gel chromatography using 20-100% EtOAc in hexanes as eluant gave a brown solid which was washed with 1:1 Et2O/Hexanes to provide 10 mg (12%) of a pale yellow solid. M+H=298.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-fluorobenzeneboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[2-(2-Fluoro-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | FC1=C(C=CC=C1)C=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C17H16FN3O
